US05521216
336.0 g of potassium t-butoxy was suspended in 2 liters of toluene. Under cooling on ice, 2 liters of 196.0 g of 2'-hyroxy-4',6'-dimethoxyacetophenone and 72.0 ml carbon disulfide in toluene were added dropwise to said suspension. The mixture was stirred for 20 hours at room temperature, and 7 liters of water was added for extraction of a toluene layer. This toluene solution was adjusted to pH 4-5 by addition of 800 ml of 10% sulfuric acid (aq.) and was then stirred for 5 hours at room temperature. The solution was allowed to stand overnight. The resulting yellow crystals were collected by filtration under reduced pressure, sufficiently washed with water and dried at 50° C. for 3 days under reduced pressure, thus giving rise to 160.0 g crude 4-hydroxy-5,7-dimethoxychromene-2-thion.

reactant | 2'-hyroxy-4',6'-dimethoxyacetophenone | 2 liters, 196.0 g | OC1=C(C(=CC(=C1)OC)OC)C(C)=O | C10H12O4
reactant | carbon disulfide | 72.0 ml | C(=S)=S | CS2
reactant | water | 7 liters | O | H2O
reactant | sulfuric acid | 800 ml | S(O)(O)(=O)=O | H2O4S
solvent | toluene | 2 liters | C1(=CC=CC=C1)C | C7H8
product | 4-hydroxy-5,7-dimethoxychromene-2-thion | 160.0 g | OC1=CC(OC2=CC(=CC(=C12)OC)OC)=S | C11H10O4S
